Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
doxycycline / erythromycin base
 
Attending: ___.
 
Chief Complaint:
"my family and friends are ganging up on me"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
History was noted from Dr. ___ consult note from 
___, and subsequent psychiatry CL notes in OMR, confirmed 
with patient and updated as
relevant:
.
Briefly, Ms. ___ is a ___ year old woman with 
no prior psychiatric or medical history who was brought to the 
___ ___ after ___ for delusional thinking/inability to 
care for self was granted at a ___ court hearing.
.  
On interview, the patients begins by describing her difficult 
relationship with her "soon to be ex" husband. They got married 
last ___ after dating for ___ years. She left him because 
she found out that he had been cheating on her. She knows that 
he has been cheating on her because "Father" told her.  When
asked to clarify who father was, she states that Father is God, 
and he talks to her. The other proof that she has of her 
husband's infidelities is that he is Facebook friends with other 
woman. She says that she has confronted him about this two 
times, one time resulting in her punching him and throwing a 
phone at
him. She states that he then left her. Her mother did not want 
her to live alone, and so she went to live at home with her 
mother.  
. 
At home, her mother "forced fed" her. She states that if she 
didn't eat, her mother would "go crazy" and yell and scream at 
her. The patient says that her mother is the crazy one, and has 
multiple personalities. She and her mother have gone to see a 
therapist, and her mother made her see a therapist on her own as 
well. The patient says that one of her friends then came over to
the house to see how she was, but really just wanted to learn 
the gossip about her marriage. The patient then tried to leave 
the house to go to a motel. Her mother called the police, and 
the police came, but allowed her to leave. She then stayed at 
the motel for a few days. Her family sent the police to the 
motel to check on the patient, and the police then brought her 
to the
___ court. 
. 
Per collateral from the patient's mother, patient started 
smoking marijuana every night last ___. During the ___, she 
started noticing differences in the way that the patient was 
acting, such as the patient would be talking to her grandmother 
who has passed away. She started saying "crazy things" like 
someone had raped her as a child. The mother attributed her odd 
behavior to stress from the wedding. After the wedding, the 
patient started to get worse. She has been staying in her room, 
and writing messages on Facebook. She is irritable and yells for 
no reason. She talks out loud to herself and says that she is 
talking to God. 
.
The patient has also lost about 40 lbs over the past year. She 
has always had "digestive problems" but has never seen a doctor 
about it because she does not want medication that is not 
natural. She goes online and asks the advice of homeopathic 
doctors. Her mother states that when she was younger, she took
antibiotics for acne.  She then developed many food allergies, 
which she attributed to using too many antibiotics. For the past 
few years, she has been doing a coffee enema twice a day. She 
often will do the enema even if she hasn't eaten anything 
recently. Denies any history of anorexia or bulimia. States that 
she does not have any issues with nausea/vomiting after eating. 
.   
___ Course: Patient was in good behavioral control throughout ___ 
stay. No
physical or chemical restraints required.  
  
ROS: Patient endorses constipation. All other systems reviewed
and were negative.

 
Past Medical History:
Past psychiatric history: Per Dr. ___ (___):
(Per patient and confirmed with parents)
-Prior diagnoses: Denied
-Hospitalizations: Denied
-Partial hospitalizations: Denied
-Psychiatrist: No current psychiatrist; saw psychiatrist once
when ___ years old due to leaving voice messages on same 
voicemail
daily for several weeks in a row
-Therapist: Denies
-Medication trials: Prozac (didn't like side effect list, didn't
want to get addicted, got migraines)
-___ trials: Denies
-Suicide attempts: Denies
-Self-injurious behavior: Patient reports cutting/scratching 
arms
as a child, parents with know knowledge of this happening
-Harm to others: Physical fight with husband in which she hit 
him
on the head with cell phone, scratched his face/arms
-Trauma: Patient reports sexual abuse as child, parents with no
knowledge of this happening
-Access to weapons: Denies
. 
Past medical history:  
None active 
 
Social History:
-Born/Raised: ___ lived in ___ for a few years with
parents and then moved back here
-Family/Support: Mother, father, no siblings; talks to friends
primarily online
-Relationship status/Children: Recently married ___,
___ relationship ___ years, no children
-Housing: Has always lived with parents, recently moved in with
fiancee/husband
-Education: ___ from ___, attended some college
-Employment/Income: Worked at parents___, ___ 
___
___ years, now not currently working
-Spiritual: ___ Orthodox
.
Substance Use History: 

Substance use history: Per Dr. ___ (___):
-Caffeine: Denies
-Tobacco: Quit years ago -- ½ PPD on and off for ___ years
-Alcohol: On occasion, last time at ___ (denies history
of withdrawal, DTs, seizures)
-Marijuana: Per HPI
-Cocaine: Last time in ___
-Ecstasy: Last time in ___
-Other Drugs: Denies

 
Family History:
Psychiatric diagnoses: Per patient, mother with 
anxiety/depression, PTSD (identical issues as her), father with 
PTSD (physical abuse) -- parents deny personal and family 
history of anxiety, depression, bipolar disorder, schizophrenia  
Suicide attempts/completed suicide: Mother with impulsive SA ___ 
years ago (per patient and confirmed with mother)

 
Physical Exam:
General: Thin, middle-aged female in NAD. Appears stated age.
HEENT: Normocephalic, atraumatic. EOMI. 
Back: No deformity
Respiratory: clear to auscultation bilaterally, normal effort
Cardiac: regular rate and rhythm, no murmurs, rubs, or gallops
Abdomen: non-distended, non-tender to palpation 
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 

 
Pertinent Results:
___ 05:00PM BLOOD WBC-8.8 RBC-4.34 Hgb-12.5 Hct-38.4 MCV-89 
MCH-28.8 MCHC-32.6 RDW-13.8 RDWSD-44.9 Plt ___
___ 05:00PM BLOOD Neuts-63.1 ___ Monos-6.5 Eos-1.8 
Baso-0.7 Im ___ AbsNeut-5.57 AbsLymp-2.43 AbsMono-0.57 
AbsEos-0.16 AbsBaso-0.06
___ 05:00PM BLOOD Glucose-86 UreaN-10 Creat-0.6 Na-136 
K-3.9 Cl-102 HCO3-23 AnGap-15
___ 03:00AM BLOOD TSH-1.4
___ 04:20AM BLOOD Valproa-71
___ 05:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
Briefly, this is a ___ year old ___ woman, no formal 
psychiatric history, unremarkable past medical history, daily 
cannabis use, who presented to ___ on a ___ due to 
concern for psychosis with inability to care for herself. Per 
the medical record, patient reported upon interview that she was 
dialoguing with God along with paranoid delusions that her 
husband was cheating on her and that her friends were gossiping 
about her and her mother. ___ from her parents was 
concerning for bizarre behaviors over the past few months with 
patient also talking with deceased relatives. Initial mental 
status examination was notable for expansive affect, irritable 
mood with recent history of assaulting her husband, and numerous 
aggressive and inappropriate messages on social media 
referencing the ___. Patient also noted to have 
poor sleep, decreased appetite, and increased energy. 
.
Diagnostically, differential was broad and included cannabis 
induced psychosis, affective psychosis, specifically bipolar 
disorder with mania and psychotic features (particularly given 
family history), primary psychotic disorder such as 
schizophrenia vs. schizoaffective disorder, and psychosis 
secondary to underlying medical condition. However, given her 
lack of psychiatric history or prior manic episodes as well as 
her rapid recovery once sober, I believe etiology of 
presentation is likely multifactorial with genetic loading for 
bipolar triggered by significant cannabis use.
.
#. Legal/Safety: Patient was admitted on a ___, upon 
arrival to the unit, she refused to sign a CV. Given significant 
concern for inability to care for self given profound psychosis, 
a 7&8b was filed. However, prior to the court hearing the 
patient's condition had improved significantly and she became 
agreeable to hospitalization and working with her treatment team 
and signed a conditional voluntary agreement, which was 
accepted. Of note, she maintained her safety throughout her 
hospitalization non 15 minute checks and did not require 
physical or chemical restraints during her hospitalization. 
.
#. Psychosis: as above, likely multifactorial with underlying 
susceptibility for bipolar disorder with current episode 
triggered by significant cannabis use. 
- Initially, patient was notably isolative and declined 
attending groups; she was noted by treatment team to have 
ongoing significant delusions that she was conversing with God, 
significant irritability and agitation with her family, and 
initial refusal of all medications with very poor insight and 
judgment. Ms. ___ also initially frequently wrote 
letters, demanding money from her parents and ex-husband, often 
made religious references, and sometimes detailed sexual abuse. 
Of note, her parents denied any knowledge of the patient having 
any prior sexual abuse and stated that prior to admission, the 
patient had never mentioned any abuse.  
- After a discussion of the risks and benefits, the patient was 
started in Risperidone, which was titrated to 2 mg po bid with 
significant benefit as evidenced by improved agitation, clearer 
thought process and improved insight and judgment into the 
events that led to her hospitalization. Of note, she tolerated 
this well with no complaints of side effects. Given periods of 
affective instability and agitation, we also discussed the risks 
and benefits of Depakote, which was started at 250 mg po qam and 
500 mg po qhs. Level= 71 prior to discharge and Ms. 
___ tolerated this well without reports of side 
effects. Of note, I also counseled the patient of the importance 
of using birth control and avoiding pregnancy while on Depakote 
due to association of this medication with neural tube defects. 
The patient understood this risk. 
- For periods of insomnia and anxiety, patient was placed on low 
dose Ativan 0.5 mg po prn and required minimal doses. She was 
sent home with a prescription for 0.5 mg po bid prn anxiety or 
agitation with recommendation this be tapered off as an 
outpatient.   
- With psychopharmacologic intervention as well as discussions 
with the patient about the consequences of her impulsive and 
erratic behavior, the patient showed improved behavioral control 
around her family, and stopping sending hostile messages to her 
family members through social media, the phone, or written 
letters. As noted above, her thought process became 
significantly more linear and goal oriented, her engagement with 
her team improved, as did her insight and judgment. Of note, she 
consistently denied suicidal ideation or thoughts of self harm 
throughout her psychiatric hospitalization
- A family meeting was held prior to discharge to discuss 
diagnosis, hospital course, need for medication and safety 
planning, at which the patient and her parents interacted 
appropriately and agreed that she was ready for discharge home. 
- At discharge, the patient denied AVH, denied SI/HI, and was 
agreeable to starting a partial hospitalization program. 
.
#. Cannabis Use disorder
- Patient started smoking marijuana daily in ___. 
She last smoked in early ___, before her separation from her 
husband, as her husband would buy the marijuana for her.  
- Patient was counseled on abstaining from marijuana use and 
educated on the deleterious effects it had on her mental health; 
patient agreed to continue abstaining. Patient voiced 
understanding of the link between her marijuana use and talking 
to God. 
.
#. Constipation 
- The patient reported doing two coffee enemas per day for the 
past ___ years. On admission, patient was started on miralax. 
She reported regular bowel movements during hospitalization. The 
patient was educated about the risks of coffee enemas, including 
electrolyte abnormalities and death, and was advised to stop 
using them; and she stated she would abstain from them. She was 
encouraged to follow up with her PCP to further discuss her 
concerns with constipaton.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Divalproex (DELayed Release) 250 mg PO DAILY 
RX *divalproex [Depakote] 250 mg 1 tablet(s) by mouth daily Disp 
#*14 Tablet Refills:*0 
2.  Divalproex (DELayed Release) 500 mg PO QPM 
RX *divalproex [Depakote] 250 mg 2 tablet(s) by mouth nightly 
Disp #*28 Tablet Refills:*0 
3.  LORazepam 0.5 mg PO BID PRN anxiety, insomnia  
RX *lorazepam [Ativan] 0.5 mg 1 tablet by mouth twice a day Disp 
#*28 Tablet Refills:*0 
4.  RisperiDONE 2 mg PO BID 
RX *risperidone [Risperdal] 2 mg 1 tablet(s) by mouth twice a 
day Disp #*28 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Substance induced psychosis

 
Discharge Condition:
Vitals: 
T 98.2 BP 102/73 HR 106 RR 16 O2 Sat: 97% RA 

Neurological:
     *station and gait: narrow-based, steady gait without ataxia
      *tone and strength: Patient moves all 4 extremities
symmetrically, full apparent strength

  Appearance: thin but well nourished, well hydrated, good 
hygiene and grooming, no apparent distress, appears stated age, 
dressed in casual clothes
Behavior: calm and cooperative
Mood and Affect: 'good' / euthymic, full range
Thought Process: linear and goal-oriented. No LOA.
Thought Content: denies SI/HI, denies ___
Judgment and Insight: fair/fair

  Cognition:
    *Attention: attentive to interview
    *Memory: appears intact to recent and remote events
    *Fund of knowledge: appears average
     Speech: normal rate, rhythm, and tone 
     Language: native ___ speaker, no paraphasic errors,
     appropriate to conversation

Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions:
You were hospitalized at ___ due to concerns of bizarre 
behavior that was likely due using excessive amounts of 
marijuana. We started medications and your condition improved 
and you are now ready for discharge. 

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please refrain from using coffee enemas 
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___